US04008281
Reduction of 1,2-bis(o-anisylphenylphosphinyl) ethane was accomplished by refluxing 16.5 g. (.12 mole) trichlorosilane and 12.2 g. (.12 mole) triethylamine in 188 ml. of dry benzene for one hour. Then 3.0 g. (.012 mole) of 1,2-bis(o-anisylphenylphosphinyl) ethane in 75 ml. of dry acetonitrile was added and the mixture refluxed 1.5 hours. Quenching in 30% sodium hydroxide solution followed by separating and evaporating the organic layer gave 1.4 g. of crude crystals which were insoluble in cold methanol. Further crystallization from hot methanol gave 1,2-bis(o-anisylphenylphosphino) ethane, m.p. 102°-104° C., [α]D20 - 83.4° (C = 0.5 in CHCl3). The mass spectra gave a very strong parent peak at 458 and the nmr confirmed the structure.

reactant | 1,2-bis(o-anisylphenylphosphinyl) ethane | C(C=1C(=CC=CC1)OC)P(=O)(CCP(=O)(C1=CC=CC=C1)CC=1C(=CC=CC1)OC)C1=CC=CC=C1 | C30H32O4P2
reactant | trichlorosilane | .12 mole | Cl[SiH](Cl)Cl | Cl3HSi
reactant | triethylamine | .12 mole | C(C)N(CC)CC | C6H15N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1,2-bis(o-anisylphenylphosphinyl) ethane | .012 mole | C(C=1C(=CC=CC1)OC)P(=O)(CCP(=O)(C1=CC=CC=C1)CC=1C(=CC=CC1)OC)C1=CC=CC=C1 | C30H32O4P2
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,2-bis(o-anisylphenylphosphino) ethane | C(C=1C(=CC=CC1)OC)P(CCP(C1=CC=CC=C1)CC=1C(=CC=CC1)OC)C1=CC=CC=C1 | C30H32O2P2
